US06291507B1
Benzyl 5-diazo-1-(3,4-dichlorobenzyl)-4-oxo-4,5,6,7-tetrahydroindole-2-carboxylate (Compound 16 in Table II)
Triethyl amine (0.36 mL) was added dropwise to a solution of benzyl 1-(3,4-dichlorobenzyl)-5-formyl-4-oxo-4,5,6,7-tetrahydroindole-2-carboxylate (0.5 g) and p-acetamidobenzenesulphonyl azide (305 mg) at room temperature, and stirred for 18 hours to give a brown solution. The solvent was removed in vacuo to afford a brown oil. Purification by column chromatography, using iso-hexane : 20% ethyl acetate as eluent afforded the title compound as a pale yellow solid (0.31 g, 62%), NMR d(CDCl3) 2.80 (2H, t), 3.05 (2H, t), 5.13 (2H, s), 5.57 (2H, s), 6.76 (1H, dd), 7.05 (1H, s), 7.20-7.40 (7H, m); M/z (+) 456, 454 (M+).

reactant | benzyl 1-(3,4-dichlorobenzyl)-5-formyl-4-oxo-4,5,6,7-tetrahydroindole-2-carboxylate | 0.5 g | ClC=1C=C(CN2C(=CC=3C(C(CCC23)C=O)=O)C(=O)OCC2=CC=CC=C2)C=CC1Cl | C24H19Cl2NO4
reactant | p-acetamidobenzenesulphonyl azide | 305 mg | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
solvent | Triethyl amine | 0.36 mL | C(C)N(CC)CC | C6H15N
product | Benzyl 5-diazo-1-(3,4-dichlorobenzyl)-4-oxo-4,5,6,7-tetrahydroindole-2-carboxylate | 0.31 g, 62% | [N+](=[N-])=C1C(C=2C=C(N(C2CC1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OCC1=CC=CC=C1)=O | C23H17Cl2N3O3
